US04080454
To a solution of 73.3 g (0.744 mol) chloroacetic acid in 700 ml 12N HCl was added 28.6 g (0.122 mol) of 5-m-tolyloxy-2-thiouracil. The slurry was heated at reflux for 35 hours and filtered while still hot. The resulting white solid was washed well with H2O and dried to give 24.5 g of 5-m-tolyloxyuracil (m.p. 291°-295°).

reactant | chloroacetic acid | 0.744 mol, 73.3 g | ClCC(=O)O | C2H3ClO2
reactant | 5-m-tolyloxy-2-thiouracil | 0.122 mol, 28.6 g | C1(=CC(=CC=C1)OC=1C(NC(NC1)=S)=O)C | C11H10N2O2S
solvent | HCl | 12N, 700 ml | Cl | ClH
product | 5-m-tolyloxyuracil | 24.5 g | C1(=CC(=CC=C1)OC=1C(NC(NC1)=O)=O)C | C11H10N2O3
